US07449456B2
A 7 ml portion of DMF solution containing 685 mg of 2-{[4-(aminomethyl)phenyl]amino}-4-[(3-methylphenyl)amino]pyrimidine-5-carboxamide dihydrochloride was mixed with 0.45 ml of triethylamine, 420 mg of 35% aqueous formalin and 1.09 g of sodium triacetoxy borohydride, followed by stirring overnight at room temperature. The reaction mixture was mixed with water, concentrated and then purified by a silica gel column chromatography (chloroform:methanol:aqueous ammonia) to obtain crude crystals. This was dissolved in a methanol-ethyl acetate mixed solution and mixed with 1 ml of 4 M hydrogen chloride/ethyl acetate solution, and the thus precipitated crystals were collected by filtration and further recrystallized (methanol-water) to obtain 164 mg of 2-({4-[(dimethylamino)methyl]phenyl}amino)-4-[(3-methylphenyl)amino]pyrimidine-5-carboxamide dihydrochloride as colorless crystals.

reactant | 2-{[4-(aminomethyl)phenyl]amino}-4-[(3-methylphenyl)amino]pyrimidine-5-carboxamide dihydrochloride | 685 mg | Cl.Cl.NCC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N
reactant | formalin | 420 mg | C=O | CH2O
reactant | sodium triacetoxy borohydride | 1.09 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrogen chloride ethyl acetate | 4 M, 1 ml | Cl.C(C)(=O)OCC
reactant | DMF | CN(C)C=O | C3H7NO
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | water | O | H2O
solvent | triethylamine | 0.45 ml | C(C)N(CC)CC | C6H15N
product | 2-({4-[(dimethylamino)methyl]phenyl}amino)-4-[(3-methylphenyl)amino]pyrimidine-5-carboxamide dihydrochloride | 164 mg | Cl.Cl.CN(C)CC1=CC=C(C=C1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)C)C(=O)N | InChI=1S/C21H24N6O.2ClH/c1-14-5-4-6-17(11-14)24-20-18(19(22)28)12-23-21(26-20)25-16-9-7-15(8-10-16)13-27(2)3;;/h4-12H,13H2,1-3H3,(H2,22,28)(H2,23,24,25,26);2*1H
